US07371767B2
2-(3-Bromo-1H-pyrrol-1-yl)pyridine (1.34 g, 2 mmol), 3-chlorophenylboronic acid (0.62 g, 4 mmol), Pd(PPh3)4 (116 mg, 0.1 mmol) and potassium carbonate (560 mg, 4 mmol) were dissolved in a mixture of DME (18 mL) and H2O (2 mL) and degassed for 15 min with Ar (g). The reaction mixture was then heated at 84° C. for 18 h. At this time, a further 0.25 eq. of 3-chlorophenylboronic acid (0.16 g, 1 mmol) was added and heating was continued. After a total of 42 h, the reaction mixture was cooled to rt, H2O (40 mL) and EtOAc (40 mL) were added and the reaction mixture shaken, the EtOAc layer was separated and the aqueous layer shaken with EtOAc (2×30 mL). The combined organic layers were dried over Na2SO4 and concentrated to a yellow oil. This was purified by liquid chromatography on silica gel eluting with EtOAc:hexane (3:7) to afford a white solid that was further purified by preparative HPLC to afford 2-[3-(3-chlorophenyl)-1H-pyrrol-1-yl]pyridine as a white solid. 1H NMR (CD3Cl, 300 MHz) δ 8.52-8.54 (1H, m), 7.61 (1H, ddd), 7.35-7.37 (1H, m), 7.28 (1H, s), 7.15-7.24 (3H, m), 6.99 (1H, ddd), 6.86 (1H, d), 6.47-6.48 (1H, m), 6.41 (1H, dd).). MS (ESI) 255 (M+H)+.

reactant | 2-(3-Bromo-1H-pyrrol-1-yl)pyridine | 2 mmol, 1.34 g | BrC1=CN(C=C1)C1=NC=CC=C1 | C9H7BrN2
reactant | 3-chlorophenylboronic acid | 4 mmol, 0.62 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 4 mmol, 560 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorophenylboronic acid | 1 mmol, 0.16 g, 0.25 eq. | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | DME | 18 mL | COCCOC | C4H10O2
solvent | H2O | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 40 mL | O | H2O
product | 2-[3-(3-chlorophenyl)-1H-pyrrol-1-yl]pyridine | ClC=1C=C(C=CC1)C1=CN(C=C1)C1=NC=CC=C1 | C15H11ClN2
